datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])[c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])([H:16])([H:17])[H:18].[C:32](=[C:33]([H:35])[H:36])[H:34]>>[C:0]([C:1]([C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])([c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])[C:32](=[C:33]([H:35])[H:36])[H:34])([H:16])([H:17])[H:18],18.3678
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](=[C:18]([C:19]([C:20](=[C:21]([H:27])[H:28])[H:26])[H:25])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:19]([C:18](=[C:17]([H:22])[H:23])[H:24])([C:20](=[C:21]([H:27])[H:28])[H:26])[H:25])[H:7],75.5212
[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])([C:9]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([S:2][H:12])[H:5])([H:3])[H:4].[C:6](=[C:7]([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])([H:10])[H:11],-2.3012
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([C:3]([H:12])([H:13])[H:14])([H:11])[C:4]([H:15])([H:16])[O:5]1)([H:7])([H:8])[H:9].[O:6][H:17],62.688872
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:29])[H:30])[H:28])=[C:17]([C:18]([H:31])([H:32])[H:33])[c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:27])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:17]([C:14]([C:13](=[C:12]([H:25])[H:26])[H:27])[C:15](=[C:16]([H:29])[H:30])[H:28])([C:18]([H:31])([H:32])[H:33])[c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:5],32.9699
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[O:8][C:9](=[O:10])[H:11]>>[C:0]([O:1][C:2](=[O:3])[H:7])([H:5])[H:6].[H:4][O:8][C:9](=[O:10])[H:11],69.4305512
[C:0](=[C:1]=[C:2]1[C:3]=[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11])([H:7])[H:8]>>[C:0](=[C:1]=[C:2]([C:3]#[C:4][H:9])[C:6](=[C:5][H:10])[H:11])([H:7])[H:8],173.0084
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([C:21]([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])([H:28])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[C:21]([C:20]([H:28])([H:29])[H:30])([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])[H:12])([H:10])[H:11],37.5723
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([C:13]([H:24])([H:25])[H:26])[c:14]1[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]1[H:31])[H:23])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:20])[H:21])[H:22])([C:12]([C:13]([H:24])([H:25])[H:26])[c:14]1[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]1[H:31])[H:23])[H:4],36.8192
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[O:33][O:34][H:35]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[H:30][O:33][O:34][H:35],59.99856
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([H:12])[H:13])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:10]([C:9]#[C:8][H:11])([H:12])[H:13])[H:5])[H:4],25.4806
[C:0](=[C:1]([C:2]#[C:3][H:6])[H:5])[H:4]>>[C:0](=[C:1][C:2]#[C:3][H:6])([H:4])[H:5],221.752
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([H:23])([H:24])[H:25])([O:17][O:18])[H:22])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][O:18][O:17][C:15]([C:14]([H:19])([H:20])[H:21])([C:16]([H:23])([H:24])[H:25])[H:22],66.944
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[O:12]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:12],24.618656
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[S:6]=[C:7]([C:8]([S:9][H:13])([H:11])[H:12])[H:10]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:11])[H:3].[S:6]=[C:7]([C:8]([S:9][H:13])[H:12])[H:10],15.8992
